US07026479B2
(a) Preparation of the N-phenyldiethanolamine Pyridyl Boronate
Under nitrogen, a stirred solution of 2-bromopyridine (843 g, 5.33 mol) and triisopropylborate (1.20 kg, 6.40 mol) in THF (6.74 l) was cooled to −75° C. A 1.6M solution of n-BuLi in hexanes (4.00 l, 6.40 mol) was added at such a rate that the temperature did not exceed −67° C. After completion of the addition, the reaction was allowed to warm to room temperature and stirred at this temperature for 16 hours. After this time, a solution of N-phenyldiethanolamine (966 g, 5.33 mol) in THF (966 ml) was added and the resulting mixture heated at reflux for 4 hours. The solvent was distilled and replaced with isopropanol until the head temperature was 76° C. (distilling 11.3 l and adding in 8.4 l of isopropanol during the process). The mixture was cooled to room temperature and stirred at this temperature for 12 hours. The mixture was filtered, the solid washed with isopropanol (1.7 l) and dried in vacuo overnight at 40° C. to give 1605 g of the subtitle compound. Analysis by 1H NMR showed a ratio of pyridine: N-phenyldiethanolamine (or lithium alkoxide): isopropyl of 1:1.25:1.55.

reactant | 2-bromopyridine | 5.33 mol, 843 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | triisopropylborate | 6.40 mol, 1.20 kg | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | n-BuLi | [Li]CCCC
reactant | N-phenyldiethanolamine | 5.33 mol, 966 g | C1(=CC=CC=C1)N(CCO)CCO | C10H15NO2
solvent | THF | 6.74 l | C1CCOC1 | C4H8O
solvent | THF | 966 ml | C1CCOC1 | C4H8O
product | N-phenyldiethanolamine Pyridyl Boronate | 1605 g | N1=C(C=CC=C1)B(O)O.C1(=CC=CC=C1)N(CCO)CCO | InChI=1S/C10H15NO2.C5H6BNO2/c12-8-6-11(7-9-13)10-4-2-1-3-5-10;8-6(9)5-3-1-2-4-7-5/h1-5,12-13H,6-9H2;1-4,8-9H
